Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
- chest pain
 
Major Surgical or Invasive Procedure:
- nuclear and exercise stress tests

 
History of Present Illness:
On admission:
___ yo female with h/o HTN presenting with chest pain 
intermittently since this morning. States that the pain was a 
"dull ache" that radiated up to her L shoulder and was present 
upon awakening. Nothing discretely made it better or worse. 
Denies associated SOB, changes in activity tolerance. Had some 
mild diaphoresis. 
.  
In the ED, initial vitals were as follows: T:98.2 HR:86 
BP:198/81 RR:20 O2sat:100%RA. She was given nitroglycerin SL x 1 
and metoprolol 5mg IV x 2, and has had no pain since. Vitals on 
transfer were as follows: T:98.1 HR:60 BP:149/44 RR:18 
O2sat:98%RA.
.
Currently feels well and is comfortable, denies any symptoms. 

 
Past Medical History:
- HTN
- hypercholesterolemia
- benign positional vertigo
- trivial MR
- acromegaly
- gout ___ thiazides
- lactose intolerance
- non-toxic goiter
- depression
 
Social History:
___
Family History:
- mother w/ DM, denies any family h/o cardiac problems
 
Physical Exam:
On admission:
Vitals: T:99.0 BP:160/68 P:57 R:16 O2sat:100%RA  
General: NAD, sitting up comfortably
HEENT: sclera anicteric, MMM, oropharynx clear, PERRL  
Neck: supple, no LAD, no appreciable JVD
Lungs: CTAB
CV: RRR, ___ systolic murmur loudest at the apex
Abdomen: soft, ND/NT
Ext: warm/well-perfused, 2+ pulses b/l, no edema or calf TTP

 
Pertinent Results:
___ WBC-5.5 Hgb-14.2 Hct-41.5 Plt ___
___ Neuts-65.2 ___ Monos-4.1 Eos-0.6 Baso-0.9
.
___ Glucose-97 UreaN-13 Creat-0.9 Na-143 K-4.7 Cl-106 
HCO3-30 
___ Calcium-9.3 Phos-3.4 Mg-2.2
.
___ 06:50AM CK(CPK)-51 cTropnT-<0.01
___ 06:10PM BLOOD CK(CPK)-65 cTropnT-<0.01
___ 11:00AM BLOOD CK(CPK)-97 cTropnT-<0.01
.
TWO VIEWS OF THE CHEST: The cardiomediastinal contour is normal. 
The heart 
is not enlarged. The lungs are clear. Osseous structures again 
demonstrate 
anterior wedge-shaped deformity of multiple thoracic vertebral 
bodies, with
resulting loss of height. However, these are not significantly 
changed. 
IMPRESSION: No evidence of acute cardiopulmonary process.
.
CORONARY CTA: 
CONCLUSION: 
1. Disease in the coronary vasculature as described above. Most 
significant stenosis seen in the proximal RCA by mixed plaque 
causing approximately 40% stenosis of the luminal diameter. 
2. 14 x 12 mm nodule in the right adrenal gland, which is 
incompletely 
assessed. 
3. Scattered upto 2 mm pulmonary nodules, can be followed up 
with a chest CT in ___ year if the patient is at increased risk or 
has prior history of 
malignancy. 
.
EXERCISE STRESS TEST:
INTERPRETATION: ___ yo woman was referred to evaluate an atypical 

chest discomfort. The patient was administered 0.142 mg/kg/min 
of 
Persantine over 4 minutes. No chest, back, neck or arm 
discomforts were 
reported by the patient during the infusion. Post-infusion, the 
patient 
reported a right-elbow discomfort which resolved within the 
minute. No 
ST segment changes were noted. The rhythm was sinus with no 
ectopy 
noted. Systolic hypertension was noted at baseline. The heart 
rate and 
blood pressure response to the Persantine infusion was 
appropriate. 
Post-infusion, the patient was administered 125 mg Aminophylline 
IV. 
IMPRESSION: Probable non-anginal symptoms with no ST segment 
changes. 
Heart rate and blood pressure responses were appropriate. 
Nuclear report 
sent separately. 
.
CARDIAC PERFUSION:
INTERPRETATION:  
Left ventricular cavity size is normal. Rest and stress 
perfusion images reveal uniform tracer uptake throughout the 
left ventricular myocardium.  
Gated images reveal normal wall motion. The calculated left 
ventricular ejection fraction is 68%. 
IMPRESSION: 
1. Normal myocardial perfusion. 
2. Normal left ventricular 
cavity size and systolic function. 
  

 

 
Brief Hospital Course:
*)Chest pain - improved after nitroglycerin x 1 and 
administration of beta-blockers in the ED, with 40% blockage of 
the RCA on coronary CTA. Due to this possibly abnormal coronary 
CTA, she was admitted to the Medicine service for further 
evaluation and placed on telemetry. There were no events 
recorded on telemetry, and she had no recurrence of her sx while 
hospitalized. Cardiac enzymes were negative x 3. An exercise 
stress test was negative. A nuclear cardiac perfusion scan 
showed normal perfusion and cardiac function. Her home dose of 
aspirin was temporarily increased to 325mg daily while she was 
being evaluated. She was discharged on her usual home 
medications, however, after ACS was ruled out.  
.  
*)HTN - BP was well-controlled on her home medications after 
initially being elevated on admission and requiring IV 
metoprolol x 2 doses in the ED. 
.  
*)Hypercholesterolemia - her home dose of simvastatin was 
continued.
.
*)Benign positional vertigo - not an issue during this 
hospitalization.
.
*)Depression - her home dose of Paxil was continued. 
.
*)Pulmonary nodules - noted incidentally on CT of the chest, 
small and scattered. No respiratory sx. To be followed up with 
her primary care doctor. 
 
Medications on Admission:
(home medications were confirmed with her ___ covering MD)
- simvastatin 40mg daily
- ASA 81mg daily
- Lotrel ___ daily
- Paxil 10mg daily
- meclazine 25mg TID prn
- vitamin D 2000mg daily 
 
Discharge Medications:
1. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Paroxetine HCl 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Five (5) 
Tablet PO DAILY (Daily).  
4. Meclizine 12.5 mg Tablet Sig: Two (2) Tablet PO TID (3 times 
a day) as needed for nausea/vertigo.  
5. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
as Lotrel.  
6. Benazepril 20 mg Tablet Sig: One (1) Tablet PO daily (): as 
Lotrel.  
7. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- chest pain (resolved)
.
- hypertension
- hyperlipidemia
- vertigo
- depression

 
Discharge Condition:
- improved/good

 
Discharge Instructions:
You were admitted to the hospital for chest pain. Imaging of the 
arteries in your heart showed some blockage, but you had several 
other tests that showed normal cardiac (heart) function. Please 
follow up with your primary care doctor. You may continue your 
home medications as prescribed. Your chest pain resolved and you 
were free of symptoms on discharge from the hospital. 
.
Please call your doctor, or return to the ED, for the following: 
chest pain, difficulty breathing, nausea/vomiting, new or 
concerning symptoms.
 
Followup Instructions:
___